US03992396
A mixture of 9.9 g. of 5-phenylvaleroylchloride and 4.6 g. of thiosemicarbazide was stirred in 20 ml. of dimethylformamide for 6 hours at 22° C. The solvent was evaporated and 10 ml. of water and 10 ml.of ether were added to the residue. The precipitate was filtered off to give the intermediate 1-(5-phenylvaleroyl)-3-thiosemicarbazide, m.p. 140°-141° C.

reactant | 5-phenylvaleroylchloride | C1(=CC=CC=C1)CCCCC(=O)Cl | C11H13ClO
reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(5-phenylvaleroyl)-3-thiosemicarbazide | C1(=CC=CC=C1)CCCCC(=O)NNC(=S)N | C12H17N3OS
